
*  CMOS inverter *tranfer fun 


.include /home/krunal/VLSI_LAB/VINAY/t14y_tsmc_025_level3.txt

m0 out in vd vd CMOSP l=1u w=2u  *LOAD 
m1 out in 0 0 CMOSN l=1u w=2u	 *Driver

*sources
vdd vd 0 dc 5
vin in 0 dc 5
* pulse(5 0 1n 1n 1n 2u 4u)

.dc vin 0 5 .01

*output graph
.control
*tran .01u 10u
run
plot out,in
.endc


