
*  CMOS inverter 
*tranfer_char/transient response/power for varing load capacitors  

.include /home/krunal/VLSI_LAB/VINAY/t14y_tsmc_025_level3.txt

m0 out in vd 5 CMOSP l=1u w=.6u  *LOAD 
m1 out in 0 0 CMOSN l=1u w=.2u	 *Driver
c1 out1 0 1u
*sources
vdd vd 0 dc 5
vs  out out1 dc 0
vin in 0 dc 5 pulse(5 0 0 0 0 .5m 1m)

*.dc vin 0 5 .01

*varing W/L ratio of pmos in cmos

.control
foreach cap .9p 99p 5n
alter c1 = $cap
tran .001m 2m
run
end
.endc


*plotting the output for various w of load

.control
foreach iter 1 2 3
setplot tran$iter
*setplot dc$iter
end
.endc

*ploting graph for transfer char

.control
let Vx= tran1.out
let Vy= tran2.out
let Vz= tran3.out
plot Vx,Vy,Vz
end
.endc


.control
let Ix= -tran1.vs#branch
let Iy= -tran2.vs#branch
let Iz= -tran3.vs#branch
plot Ix,Iy,Iz
plot Ix*Vx, Iy*Vy, Iz*Vz
end
.endc
