

* nmos inverter resistiv_load DC transfer function only


.include /home/krunal/VLSI_LAB/VINAY/t14y_tsmc_025_level3.txt
r1 vd out 0.1k
m1 out in 0 0 CMOSN l=1u w=1u

*sources
vdd vd 0 dc 3.3 
vin in 0 dc 3.3

.dc vin 0 6 .01

* for transfer fun pic
.control
run
plot out
.endc
end
