
* nmos inverter resistiv_load 

*variation in tranfer_fun due to change in (W/L) 


.include /home/krunal/VLSI_LAB/VINAY/t14y_tsmc_025_level3.txt
r1 vd out 0.1k
m1 out in 0 0 CMOSN l=1u w=1u

*sources
vdd vd 0 dc 3.3 
vin in 0 dc 3.3

.dc vin 0 3.3 .01

* for transfer fun pic
*.control
*run
*plot out
*.endc

*varing W/L ratio
.control
foreach wid .12u .25u 2.5u
alter m1 w = $wid
run 
end
.endc

*plotting the output for various w/L
.control
foreach iter 1 2 3
setplot dc$iter
plot out
end
.endc

