



* nmos inverter resistiv load

*Effect on transient responce due to varing (W/L) 

.include /home/krunal/VLSI_LAB/VINAY/t14y_tsmc_025_level3.txt

r1 vd out 0.1k
m1 out in 0 0 CMOSN l=1u w=1u

*sources
vdd vd 0 dc 3.3 
vin in 0 dc 3.3 pulse(0 3.3 1n .1n .1n 2n 4n)

*varing W/L ratio
.control
foreach wid .12u .25u 2.5u
alter m1 w = $wid
tran .01n 10n
run 
end
.endc

*plotting the output for various w/L
.control
foreach iter 1 2 3
setplot tran$iter
plot out
end
.endc

