
* nmos inverter resistiv load

*effect on current due to varing load capacitance

.include /home/krunal/VLSI_LAB/VINAY/t14y_tsmc_025_level3.txt
r1 vd out 10k
m1 out in 0 0 CMOSN l=1u w=1u
c1 out1 0 1n

*sources
vdd vd 0 dc 3.3 
vs out out1 dc 0
vin in 0 dc 3.3 pulse(5 0 .1n 5u 5u .5m 1m)


*varing capacitance 

.control
foreach cap 1p 1n 1u
alter c1 = $cap
tran .01m 3m
run 
end
.endc

*plotting the output for various cap

.control
foreach iter 1 2 3
setplot tran$iter
plot -vdd#branch
end
.endc

