
.include /home/krunal/VLSI_LAB/VINAY/t14y_tsmc_025_level1.txt

m0 out in Vss 0 RITSUBN1 TEMP=27

*sources
Vgng Vss 0 dc 0
vdd out 0 dc 5
Vin in 0  dc  5

.dc Vin 0 5 .1
.control
foreach t1 27 50 100
alter m0 TEMP =$t1
run
end 
.endc
 


