
*  inverter with pseudo NMOS load
*tranfer_fun/transient responce/power for varing W of driver nmos


.include /home/krunal/VLSI_LAB/VINAY/t14y_tsmc_025_level3.txt

m0 vd vd out 0 CMOSN l=1u w=.3u 
m1 out in 0 0 CMOSN l=1u w=5u	
c1 out 0 1p

*sources
vdd vd 0 dc 5 
vin in 0 dc 5  
*pulse(0 5 0 0 0 2u 4u)
.dc vin 0 5 .01

*varing W of driver
.control
foreach wid 1u 2u 5u
alter m1 w = $wid
*tran .01u 10u
run 
end
.endc


*plotting the output for various w of load
.control
foreach iter 1 2 3
setplot tran$iter
end
.endc

*ploting graph for transient out
*.control
*let x= tran1.out
*let y= tran2.out
*let z= tran3.out
*plot x,y,z
*end
*.endc

*ploting graph for transfer char dc out
*.control
*let x= dc1.out
*let y= dc2.out
*let z= dc3.out
*plot x,y,z
*end
*.endc


*ploting graph for power (use tran/dc for dynamic/static power)
.control
let x= -dc1.vdd#branch
let y= -dc2.vdd#branch
let z= -dc3.vdd#branch
plot x*vd ,y*vd, z*vd
end
.endc


