
*  inverter with NMOS load
*tranfer fun for varing L of load nmos


.include /home/krunal/VLSI_LAB/VINAY/t14y_tsmc_025_level3.txt

m0 vd vd out 0 CMOSN l=1u w=1u  *LOAD 
m1 out in 0 0 CMOSN l=1u w=5u	 *Driver

*sources
vdd vd 0 dc 5
vin in 0 dc 5 pulse(0 5 0 0 0 2u 4u)

*.dc vin 0 5 .01

*varing W/L ratio
.control
foreach len 1u 2u 4u
alter m0 l = $len
tran .01u 15u
run
end
.endc


*plotting the output for various w of load
.control
foreach iter 1 2 3
setplot tran$iter
end
.endc

*ploting graph for transfer char
.control
*let x= dc1.out
*let y= dc2.out
*let z= dc3.out
*plot x,y,z
*end
*.endc


*ploting graph for transfer char
*.control
*let x= tran1.out
*let y= tran2.out
*let z= tran3.out
*plot x,y,z
*end
*.endc


*ploting graph for power
.control
let x= -tran1.vdd#branch
let y= -tran2.vdd#branch
let z= -tran3.vdd#branch
plot x*vd, y*vd, z*vd
end
.endc

