
*  inverter with Pmos load (pseudo nmos)
*tranfer fun only

.include /home/krunal/VLSI_LAB/VINAY/t14y_tsmc_025_level3.txt

m0 vd out out 5 CMOSP l=2u w=1u
m1 out in 0 0 CMOSN l=2u w=1u

*sources
vdd vd 0 dc 5 
vin in 0 dc 5 

.dc vin 0 5 .001

*for transfer fun pic
.control
run
plot out
end
.endc


