
*  inverter with pseudo NMOS load
*tranfer fun only

.include /home/krunal/VLSI_LAB/VINAY/t14y_tsmc_025_level3.txt

m0 out 0 vd 5 CMOSP l=1u w=1u
m1 out in 0 0 CMOSN l=1u w=1u

*sources
vdd vd 0 dc 5 
vin in 0 dc 5 pulse(5 0 1u 10u 10u 2m 4m)

*for transfer fun pic
.control
tran .01m 10m
run
plot out,in
end
.endc


