
*  inverter with pseudo NMOS load
*tranfer fun for varing W of driver nmos


.include /home/krunal/VLSI_LAB/VINAY/t14y_tsmc_025_level3.txt

m0 vd 0 out 5 CMOSP l=1u w=1u  *LOAD 
m1 out in 0 0 CMOSN l=1u w=1u	 *Driver

*sources
vdd vd 0 dc 5 
vin in 0 dc 5 

.dc vin 0 5 .01

*varing W/L ratio
.control
foreach wid 1u 2u 4u
alter m1 w = $wid
run 
end
.endc


*plotting the output for various w of load
.control
foreach iter 1 2 3
setplot dc$iter
*plot out
end
.endc

.control
let x= dc1.out
let y= dc2.out
let z= dc3.out
plot x,y,z
end
.endc



