
*  inverter with NMOS load
*tranfer fun/transient response for varing L of driver nmos

.include /home/krunal/VLSI_LAB/VINAY/t14y_tsmc_025_level3.txt

m0 vd 0 out 5 CMOSP l=2u w=1u 
m1 out in 0 0 CMOSN l=2u w=1u	

*sources
vdd vd 0 dc 5 
vin in 0 dc 5 pulse(0 5 10n 10u 10u 1m 2m)

*.dc vin 0 5 .01

*varing W/L ratio
.control
foreach len .5u 2u 4u
alter m1 l = $len
run
tran 0.01m 5m
end
.endc


*plotting the output for various w of load
.control
foreach iter 1 2 3
setplot tran$iter
end
.endc

.control
let x= tran1.out
let y= tran2.out
let z= tran3.out
plot x,y,z
end
.endc


