
*  inverter with NMOS load
*tranfer fun for varing W of load pmos


.include /home/krunal/VLSI_LAB/VINAY/t14y_tsmc_025_level3.txt

m0 vd 0 out 5 CMOSP l=1u w=1u  *LOAD 
m1 out in 0 0 CMOSN l=1u w=1u	 *Driver

*sources
vdd vd 0 dc 5 
vin in 0 dc 5 pulse(0 5 0 0 0 .5m 1m)

*.dc vin 0 5 .01

*varing W/L ratio
.control
foreach wid .125u .25u 2.5u
alter m0 w = $wid
run 
tran 0.01m 2m
end
.endc


*plotting the output for various w of load
.control
foreach iter 1 2 3
setplot tran$iter
end
.endc

.control
let x= tran1.out
let y= tran2.out
let z= tran3.out
plot x,y,z
end
.endc


